US05686445
A mixture of 1.83 g (0.01 mol) of nicotinoyl chloride hydrochloride (97%), 1.65 g of (0.01 mol) of ethyl 4-aminobenzoate, 2.22 g (0.022 mol) of triethylamine and 61 mg of 4-dimethylaminopyridine in 33 ml of dichloromethane is refluxed 24 hours. The solution is washed with water, 2N citric acid and NaHCO3 solution. The solvent is removed and the residue triturated with methanol to give 2.3 g of ethyl 4-[(3-pyridinylcarbonyl)amino]benzoate as yellow crystals, m.p. 125°-127° C.

reactant | nicotinoyl chloride hydrochloride | 0.01 mol, 1.83 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | ethyl 4-aminobenzoate | 0.01 mol, 1.65 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | triethylamine | 0.022 mol, 2.22 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
product | ethyl 4-[(3-pyridinylcarbonyl)amino]benzoate | 2.3 g | N1=CC(=CC=C1)C(=O)NC1=CC=C(C(=O)OCC)C=C1 | C15H14N2O3
